US08791114B2
(3-Fluoro-phenyl)-(3-m-tolyl-4,5-dihydro-pyrazol-1-yl)-methanone (179).
3-[1-(3-Fluoro-benzoyl)-4,5-dihydro-1H-pyrazol-3-yl]-benzonitrile (88 mg, 0.30 mmol), dissolved in EtOH (10 mL) and EtOAc (10 mL) was passed through the H-cube equipped with a 10% Pd/C cartridge. Temperature 80° C., 50 bar, flow rate, 1 mL/min. LC-MS showed consumption of SM. The solvent was evaporated under pressure and the material was purified by chromatography using a 12 g silica cartridge eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. Amount obtained: 30 mg, 0.11 mmol, 35% yield. LC-MS (ESI) m/e 283 (M+H). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.40 (s, 3H) 3.26-3.33 (m, 2 H) 4.27 (t, J=9.96 Hz, 2 H) 7.17-7.26 (m, 2 H) 7.32 (t, J=7.81 Hz, 1H) 7.43 (td, J=7.98, 5.81 Hz, 1H) 7.49-7.54 (m, 2 H) 7.73-7.84 (m, 2 H).

reactant | 3-[1-(3-Fluoro-benzoyl)-4,5-dihydro-1H-pyrazol-3-yl]-benzonitrile | 0.30 mmol, 88 mg | FC=1C=C(C(=O)N2N=C(CC2)C=2C=C(C#N)C=CC2)C=CC1 | C17H12FN3O
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (3-Fluoro-phenyl)-(3-m-tolyl-4,5-dihydro-pyrazol-1-yl)-methanone | 35% yield | FC=1C=C(C=CC1)C(=O)N1N=C(CC1)C=1C=C(C=CC1)C | C17H15FN2O
